US08247431B2
Step 2: Preparation of 5-hydroxy-2-trifluoromethyl-quinoline-7-carboxylic acid methyl ester
A solution of 5-oxo-2-trifluoromethyl-5,6,7,8-tetrahydro-quinoline-7-carboxylic acid methyl ester (50.0 g) is dissolved in methylene chloride (500 mL) and treated drop wise with a solution of bromotrichloromethane (54.43 g) and 1,8-diazabicylo[5.4.0]undec-7-en (55.72 g) in methylene chloride (100 mL) at 0-5° C. After the addition is complete, the reaction mixture is allowed to warm to room temperature, and stirred for 1 h. The reaction mixture is diluted with ethyl acetate and then washed successively with diluted aqueous hydrochloric acid and brine. The ethyl acetate phase is dried over anhydrous sodium sulfate, filtered and concentrated in vacuum. The residue is purified by recrystallization from hexane/ethyl acetate to give 47.13 g of the title compound of the formula

reactant | 5-oxo-2-trifluoromethyl-5,6,7,8-tetrahydro-quinoline-7-carboxylic acid methyl ester | 50.0 g | COC(=O)C1CC(C=2C=CC(=NC2C1)C(F)(F)F)=O | C12H10F3NO3
reactant | bromotrichloromethane | 54.43 g | BrC(Cl)(Cl)Cl | CBrCl3
reactant | 1,8-diazabicylo[5.4.0]undec-7-en | 55.72 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | methylene chloride | 500 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-hydroxy-2-trifluoromethyl-quinoline-7-carboxylic acid methyl ester | 47.13 g | COC(=O)C1=CC(=C2C=CC(=NC2=C1)C(F)(F)F)O | C12H8F3NO3
